US06005115
A process for preparing Form A of N-[[[2-[[[2-[(diaminomethylene)amino]-4-thiazolyl]methyl]thio]ethyl]amino]methylene]-4-bromo-benzenesulfonamide of claim 1 which comprises reacting [4-[[(2-aminoethyl)thio]methyl]-2-thiazolyl]guanidine dihydrochloride with ethyl 4-bromo-benzene-sulfonylformimidate formimidate in methanol and in the presence of potassium hydroxide, followed by filtering and adding isopropanol over the filtrate to obtain N-[[[2-[[[2-(diaminomethylene)amino]-4-thiazolyl]methyl]thio]ethyl]amino]methylene]-4-bromo-benzenesulfonamide isopropanolate dissolving in methanol, filtering, and adding to water.

reactant | N-[[[2-[[[2-[(diaminomethylene)amino]-4-thiazolyl]methyl]thio]ethyl]amino]methylene]-4-bromo-benzenesulfonamide | NC(N)=NC=1SC=C(N1)CSCCNC=NS(=O)(=O)C1=CC=C(C=C1)Br | C14H17BrN6O2S3
reactant | [4-[[(2-aminoethyl)thio]methyl]-2-thiazolyl]guanidine dihydrochloride | Cl.Cl.NCCSCC=1N=C(SC1)NC(=N)N
reactant | ethyl 4-bromo-benzene-sulfonylformimidate formimidate | C(O)=N.BrC1=CC=C(C=C1)S(=O)(=O)C(OCC)=N
reactant | potassium hydroxide | [OH-].[K+]
solvent | methanol | CO | CH4O
product | 4-bromo-benzenesulfonamide isopropanolate | C(C)(C)[O-].BrC1=CC=C(C=C1)S(=O)(=O)N | InChI=1S/C6H6BrNO2S.C3H7O/c7-5-1-3-6(4-2-5)11(8,9)10;1-3(2)4/h1-4H,(H2,8,9,10);3H,1-2H3/q;-1
